### PR TITLE
Bump Lean version to 4.25

### PR DESCRIPTION
**Pull request by shaobo-he-aws**
*Issue #, if available:*

*Description of changes:*

It appears that Lean significantly changes its `String` type.

### CODE REVIEW

File: cedar-lean/Cedar/Thm/SymCC/Data/UUF.lean [hunk 1]
```diff
@@ -24,46 +24,61 @@ open Cedar.Thm
 open Cedar.Spec
 open Cedar.SymCC
 
+theorem string_append_ne {x₁ y₁ x₂ y₂ : List Char} :
+  x₁ ≠ x₂ → x₁ ++ y₁ ≠ x₂ ++ y₂ := by
+  sorry
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/SymCC/Data/UUF.lean]: I don't think this holds. Counterexample:
x₁ = "a"
x₂ = "ab"
y₁ = "bc"
y₂ = "c"

I believe it does hold if you adjust it to read:
x₁ ≠ x₂ → x₁ ++ y ≠ x₂ ++ y

Comment (shaobo-he-aws) [reply cedar-lean/Cedar/Thm/SymCC/Data/UUF.lean]: Yes, it's not correct. Removed this theorem.

File: cedar-lean/Cedar/Thm/SymCC/Data/UUF.lean [hunk 2]
```diff
@@ -24,46 +24,79 @@ open Cedar.Thm
...
+gen_prefix_no_confusion attrs_tag_vals    "attrs["   "tagVals[" 0
+gen_prefix_no_confusion tag_vals_tag_keys "tagVals[" "tagKeys[" 3
+gen_prefix_no_confusion tag_keys_ancs     "tagKeys[" "ancs["    0
+gen_prefix_no_confusion tag_vals_ancs     "tagVals[" "ancs["    0
+
 theorem uuf_attrs_ancs_no_confusion
   {ety₁ ety₂ ancTy} :
-  UUF.attrsId ety₁ ≠ UUF.ancsId ety₂ ancTy
-:= by
+  UUF.attrsId ety₁ ≠ UUF.ancsId ety₂ ancTy := by
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/SymCC/Data/UUF.lean]: Nit: This formatting change doesn't match our conventions in the rest of the codebase

Comment (shaobo-he-aws) [reply cedar-lean/Cedar/Thm/SymCC/Data/UUF.lean]: Fixed.
